US04801703
3,4-Dihydroxytoluene (1.686 g, 13.58 mM) was dissolved in 40 ml of ether and, using 2.748 g of triethylamine and 2.022 g of methyl dichlorophosphate, the reaction mixture was treated in the same manner as in Reference Example 5. There was obtained 2.400 g (88.4% yield) of 2-methoxy-5-methyl-2-oxo-1,3,2-benzodioxaphosphole as a viscous oil.

reactant | 3,4-Dihydroxytoluene | 13.58 mM, 1.686 g | OC=1C=C(C=CC1O)C | C7H8O2
reactant | triethylamine | 2.748 g | C(C)N(CC)CC | C6H15N
reactant | methyl dichlorophosphate | 2.022 g | P(=O)(OC)(Cl)Cl | CH3Cl2O2P
solvent | ether | 40 ml | CCOCC | C4H10O
product | 2-methoxy-5-methyl-2-oxo-1,3,2-benzodioxaphosphole | 2.400 g, 88.4% yield | COP1(OC2=C(O1)C=CC(=C2)C)=O | C8H9O4P
